US04430337
4-Methylenecyclohexane-1-carbaldehyde
To pydridinium dichromate (223 g., 0.59 mole) in 1 liter CH2Cl2, stirring under N2, was added dropwise 4-methylene-1-cyclohexanemethanol (50 g., 0.40 mole) in 75 ml. CH2Cl2 over a few minutes. After stirring for 21 hours at room temperature, the reaction mixture was heated at 60° C. for 24 hours. The reaction mixture was cooled, diluted with 400 ml. ether and decanted from solids. The solids were slurried with 400 ml. of fresh ether and decanted. The combined organic decants were filtered over fluorasil and diatomaceous earth and the filtrate concentrated in vacuo to an oil (41 g.) and distilled to yield title product, 13.6 g., b.p. 82°-90°/15-20 mm.

reactant | dichromate | 0.59 mole, 223 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | 4-methylene-1-cyclohexanemethanol | 0.40 mole, 50 g | C=C1CCC(CC1)CO | C8H14O
solvent | CH2Cl2 | 1 liter | C(Cl)Cl | CH2Cl2
product | 4-Methylenecyclohexane-1-carbaldehyde | C=C1CCC(CC1)C=O | C8H12O
